US08754233B2
Synthesis of 4-Benzothiazol-2-yl-N5-benzyl-1H-pyrazole-3,5-diamine
A solution of 2-benzothiazol-2-yl-3,3-bismethylsulfanylacrylonitrile (200 mg, 0.73 mmol) and benzylamine (160 mg, 1.5 mmol) in 50 mL of ethanol was heated to reflux for 90 minutes. Hydrazine hydrate (35 μL, 1.0 mmol) was then added to the reaction mixture. The solution was heated to reflux until the reaction was complete as determined by TLC analysis. The reaction solution was allowed to cool to room temperature and the title compound (124 mg) was isolated by filtration, washed with ethanol and dried under high vacuum. MS (m/z, ES+): 322 (M+1, 100%); 1H NMR (300 MHz, ppm, DMSO-d6): δμ11.32 (br s, 1/3H), 10.89 (s, br., 2/3H), 7.98 (d, 3J=7.7 Hz, 1H), 7.82 (d, 3J=8.0 Hz, 1H), 7.41-7.28 (m, 6H), 7.22 (m, 1H), 6.15 (br s, 9/10H), 4.95 (br s, 1/10H), 4.48 (d, 3J=4.7 Hz, 1H). Yield=53%.

reactant | 2-benzothiazol-2-yl-3,3-bismethylsulfanylacrylonitrile | 0.73 mmol, 200 mg | S1C(=NC2=C1C=CC=C2)C(C#N)=C(SC)SC | C12H10N2S3
reactant | benzylamine | 1.5 mmol, 160 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | Hydrazine hydrate | 1.0 mmol, 35 μL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Benzothiazol-2-yl-N5-benzyl-1H-pyrazole-3,5-diamine | 124 mg, Yield=53% | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2NCC2=CC=CC=C2)N | C17H15N5S
